US06440995B1
To a mixture of 5-acetylindane (3.0 g, 18.7 mmol) and anthranilic acid ethyl ester (2.8 ml, 18.7 mmol) in diphenylether (47 g) was added portionwise AlCl3 (3.5 g, 26.2 mmol). The reaction mixture was stirred at 200° C. for 2.5 hours and cooled to room temperature. Hexane (100 ml) and MeOH (3 ml) were then added. The so obtained solid was filtered, washed with hexane and stirred in the presence of 5N HCl (85 ml) and acetone (10 ml). After filtration, the solid was again washed with H2O, and stirred with MeOH (15 ml) for 30 min. Filtration provided 2-indan-5-yl-1 H-quinolin-4-one (4.35 g, 89%) as a light yellow solid, MS: m/e=261 (M+).

reactant | 5-acetylindane | 18.7 mmol, 3.0 g | C(C)(=O)C=1C=C2CCCC2=CC1 | C11H12O
reactant | anthranilic acid ethyl ester | 18.7 mmol, 2.8 ml | C(C)OC(C=1C(N)=CC=CC1)=O | C9H11NO2
reactant | AlCl3 | 26.2 mmol, 3.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Hexane | 100 ml | CCCCCC | C6H14
solvent | diphenylether | 47 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | MeOH | 3 ml | CO | CH4O
product | 2-indan-5-yl-1 H-quinolin-4-one | 4.35 g, 89% | C1CCC2=CC(=CC=C12)C=1NC2=CC=CC=C2C(C1)=O | C18H15NO
